US05631373
Preparation of 7-Fluoro-6-hydroxy-5-nitro-1,4-dihydroquinoxaline-2,3-dione
A mixture of 24 mg (0.098 mmol) of 6,7-difluoro-5-nitro-1,4-dihydroquinoxaline-2,3-dione and 19 mg (0.47 mmol) of sodium hydroxide in 0.6 mL of D2O was heated at 105° C. for 24 h. The mixture was added to 2 mL of water and acidified with 2N HCl to pH=1. The precipitate was filtered, washed with water, and dried to leave a red solid (19 mg, 80%); mp >360° C.; 1H NMR (DMSO-d6), 7.101 (1, d, J=10.9), 11.10 (mb, 1), 11.70 (mb, 1), 11.99 (s, 1). 19F NMR, -137.4 (mb). MS 242 (M+ +1, 100), 195 (50), 152 (20), 140 (25). HRMS, Calcd for C8H4FN3O5 241.0131, found 241.0110.

reactant | 6,7-difluoro-5-nitro-1,4-dihydroquinoxaline-2,3-dione | 0.098 mmol, 24 mg | FC=1C(=C2NC(C(NC2=CC1F)=O)=O)[N+](=O)[O-] | C8H3F2N3O4
reactant | sodium hydroxide | 0.47 mmol, 19 mg | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | water | 2 mL | O | H2O
product | 7-Fluoro-6-hydroxy-5-nitro-1,4-dihydroquinoxaline-2,3-dione | 19 mg, 80% | FC1=C(C(=C2NC(C(NC2=C1)=O)=O)[N+](=O)[O-])O | C8H4FN3O5
